US04335122
C. 2-Chloro-11-cyano-11-[3-(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin hydrochloride
2-Chloro-11-cyano-6,11-dihydrodibenz[b,e]oxepin (4.6 g; 0.017 mole) of Example 25B is dissolved in dry dimethylformamide (DMF) [40 ml] under nitrogen and cooled to 5° C. Sodium hydride (99%) (0.45 g; 0.018 mole) is added in one portion and stirred for five minutes. It is then brought to ambient temperature and stirred for thirty minutes. After cooling to 3° C. 3-dimethylaminopropyl chloride (2.18 g; 0.018 mole) in dry DMF (20 ml) is added dropwise. Upon completion of the addition, the reaction mixture is brought to ambient temperature for thirty minutes and then heated at 60° C. for eight hours. The reaction mixture is cooled and poured with stirring into 600 ml ice water. The resulting solid is filtered, dissolved in ether and extracted with 2 N HCl. The acidic aqueous portion is basified with 10% NaOH and the precipitate filtered and dried. The solid is dissolved in ether and treated with ethereal HCl. After filtering, the solid is washed with ether and dried. Recrystallization from acetonitrile provides 1.0 g (16%) of crystals of 2-chloro-11-cyano-11-[3(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin hydrochloride, m.p. 217°-219° C.

reactant | 2-Chloro-11-cyano-6,11-dihydrodibenz[b,e]oxepin | 0.017 mole, 4.6 g | ClC1=CC2=C(OCC3=C(C2C#N)C=CC=C3)C=C1 | C15H10ClNO
reactant | Sodium hydride | 0.018 mole, 0.45 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 0.018 mole, 2.18 g | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-11-cyano-11-[3-(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin hydrochloride | 1.0 g, 16% | Cl.ClC1=CC2=C(OCC3=C(C2(CCCN(C)C)C#N)C=CC=C3)C=C1 | InChI=1S/C20H21ClN2O.ClH/c1-23(2)11-5-10-20(14-22)17-7-4-3-6-15(17)13-24-19-9-8-16(21)12-18(19)20;/h3-4,6-9,12H,5,10-11,13H2,1-2H3;1H
